US04056525
7-Chloro-5-(o-Chlorophenyl)-2-Ethoxy-3-Methoxy-3H-1,4-Benzodiazepine
To a solution of 5.40 g. (0.015 mol) of 2,7-dichloro-5-(o-chlorophenyl)-3-methoxy-3H-1,4-benzodiazepine in 25 ml. of THF is added a solution of NaOEt [from 0.34 g. (0.015 ml.) of Na] in 20 ml. of EtOH. The mixture is stirred for 21/2 hour at room temperature, poured into 500 ml. of ice water, and extracted twice with Et2O. The extracts are washed with saturated NaHCO3 and brine and dried. Concentration and crystallization gives 3 g. of the title compound; m.p. 110°-113°.

reactant | 2,7-dichloro-5-(o-chlorophenyl)-3-methoxy-3H-1,4-benzodiazepine | 0.015 mol | ClC1=NC2=C(C(=NC1OC)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl | C16H11Cl3N2O
reactant | THF | C1CCOC1 | C4H8O
reactant | NaOEt | 0.015 ml, 0.34 g | CC[O-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 7-Chloro-5-(o-Chlorophenyl)-2-Ethoxy-3-Methoxy-3H-1,4-Benzodiazepine | ClC=1C=CC2=C(C(=NC(C(=N2)OCC)OC)C2=C(C=CC=C2)Cl)C1 | C18H16Cl2N2O2
